US09193723B2
1-(imidazo[1,2-a]pyridin-6-yl)-3-(4-nitrophenyl)urea
A 0° C. solution of imidazo[1,2-a]pyridin-6-amine (1 g, 7.21 mmol), N-ethyl-N-isopropylpropan-2-amine (2.51 ml, 14.42 mmol) and dimethylformamide (21.85 ml) was treated with a solution of 1-isocyanato-4-nitrobenzene (1.313 g, 8.00 mmol) in tetrahydrofuran (10.92 ml) which was added dropwise via syringe over 5 minutes. The reaction mixture was allowed to stir at room temperature for 6 hours, and water was added. The suspension was filtered with water washes to give the title compound after vacuum drying.

reactant | imidazo[1,2-a]pyridin-6-amine | 7.21 mmol, 1 g | N=1C=CN2C1C=CC(=C2)N | C7H7N3
reactant | N-ethyl-N-isopropylpropan-2-amine | 14.42 mmol, 2.51 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethylformamide | 21.85 ml | CN(C=O)C | C3H7NO
reactant | 1-isocyanato-4-nitrobenzene | 8.00 mmol, 1.313 g | N(=C=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H4N2O3
solvent | tetrahydrofuran | 10.92 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(imidazo[1,2-a]pyridin-6-yl)-3-(4-nitrophenyl)urea | N=1C=CN2C1C=CC(=C2)NC(=O)NC2=CC=C(C=C2)[N+](=O)[O-] | C14H11N5O3
